US04383945
To a solution of a mixture (1:3) of methyl 2-[(3S,4R)-3-{(1RS)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (1.84 g) and 4-dimethylaminopyridine (1.23 g) in dichloromethane (20 ml) was added a solution of p-nitrobenzyl chloroformate (1.60 g) in dichloromethane (3 ml) at 0° C. After stirring at 0° C. for 1.5 hours, the mixture was diluted with ethyl acetate (150 ml) and washed with dilute hydrochloric acid, water, a dilute aqueous sodium bicarbonate, and brine. Drying over magnesium sulfate and removal of the solvent left an oil (3.1 g), which was chromatographed on silica gel (90 g) eluting with 10-25% ethyl acetate in hexane to give a mixture (1:3) of methyl 3-methyl-2-[(3S,4R)-4-methylthio-3-{(1RS)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]-but-2-enoate (2.90 g) as an oil.

reactant | methyl 2-[(3S,4R)-3-{(1RS)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 1.84 g | OC(C)[C@H]1C(N([C@@H]1SC)C(C(=O)OC)=C(C)C)=O | C12H19NO4S
reactant | p-nitrobenzyl chloroformate | 1.60 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
catalyst | 4-dimethylaminopyridine | 1.23 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-methyl-2-[(3S,4R)-4-methylthio-3-{(1RS)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]-but-2-enoate | 2.90 g | CC(=C(C(=O)OC)N1C([C@@H]([C@H]1SC)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C20H24N2O8S
